US07442839B2
i) 3-Bromophenyl cyclohexyl sulfide
To a stirred solution of 3-bromobenzenethiol (5.00 g) in DMF (100 ml) was added cyclohexyl bromide (4.31 g) and potassium carbonate (7.31 g). The mixture was stirred at room temperature under nitrogen for 18 h. The reaction mixture was partitioned between 2N HCl and EtOAC. The organic phase was washed with brine and dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave the title compound (3.89 g). Tlc (silica) (4:1 cyclohexane-diethyl ether) Rf=0.90.

reactant | 3-bromobenzenethiol | 5.00 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | cyclohexyl bromide | 4.31 g | C1(CCCCC1)Br | C6H11Br
reactant | potassium carbonate | 7.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-Bromophenyl cyclohexyl sulfide | 3.89 g | C1(CCCCC1)SC1=CC(=CC=C1)Br | C12H15BrS
